US07393844B2
A mixture of 3-allyl-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridine (2.62 g, 7.25 mmol), N-methylmorphine N-oxide (849 mg, 7.25 mmol), osmium tetroxide (4 wt. % in water, 10 mL, 400 mg) in acetone/water (4:1) (100 mL) was stirred at room temperature overnight. The reaction was quenched by sodium bisulfite (3.50 g, 36 mmol). After acetone was evaporated, the mixture was diluted with water, and extracted with DCM. The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was stirred with sodium periodate (1.86 g, 8.7 mmol) in MeOH/water (1:1) (60 mL) for 30 min. The reaction was filtered and concentrated. The residue was partitioned between ethyl acetate and water and the aqueous layer was extracted by ethyl acetate. The combined organic layers were dried over Na2SO4, filtered, and concentrated under vacuum. The residue was purified by column chromatography (silica gel, 30% EtOAc/hexane) to yield [4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridin-3-yl]acetaldehyde (1.61 g, 61%). 1H-NMR (400 MHz, CDCl3) δ 9.68 (t, J=1.5 Hz, 1H), 7.46 (s, 1H), 4.67 (s, 2H), 4.01 (s, 3H), 3.76 (d, J=5 Hz, 2H), 0.96 (s, 9H), 0.13 (s, 6H).

reactant | 3-allyl-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridine | 7.25 mmol, 2.62 g | C(C=C)C=1C(=NC(=CC1CO[Si](C)(C)C(C)(C)C)C(F)(F)F)OC | C17H26F3NO2Si
reactant | sodium bisulfite | 36 mmol, 3.50 g | S([O-])(O)=O.[Na+]
reactant | sodium periodate | 8.7 mmol, 1.86 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone water | 100 mL | CC(=O)C.O
solvent | MeOH water | 60 mL | CO.O
catalyst | osmium tetroxide | 10 mL, 400 mg | [Os](=O)(=O)(=O)=O
product | [4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methoxy-6-(trifluoromethyl)pyridin-3-yl]acetaldehyde | 1.61 g, 61% | [Si](C)(C)(C(C)(C)C)OCC1=C(C(=NC(=C1)C(F)(F)F)OC)CC=O | C16H24F3NO3Si
